US07582633B2
Step 4: [4-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-pyrazol-1-yl]acetic acid
Into a 10-mL flask equipped with a magnetic stirbar was added ethyl [4-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-pyrazol-1-yl]acetate-(50 mg, 0.10 mmol), methanol (2 mL) and 1 M aqueous sodium hydroxide solution (0.52 mL, 0.53 mmol). The suspension was heated to 80° C. for 2 h. The reaction mixture was concentrated to remove the methanol and the residue was poured into a 125-mL separatory funnel containing saturated aqueous KH2PO4 solution (75 mL) and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent was evaporated under reduced pressure to give the desired product.

reactant | ethyl [4-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-pyrazol-1-yl]acetate- | 0.10 mmol, 50 mg | FC(C1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2C=NN(C2)CC(=O)OCC)C=CC=C1)(F)F | C23H24F3N5O3
reactant | sodium hydroxide | 0.53 mmol, 1 M, 0.52 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | [4-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-pyrazol-1-yl]acetic acid | FC(C1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2C=NN(C2)CC(=O)O)C=CC=C1)(F)F | C21H20F3N5O3
